US06281227B1
A. (2-Bromo-pyridin-3-yl)-carbamic acid tert-butyl ester
To a solution of 3-amino-2-bromopyridine (1.5 g, 8.7 mmol) and di-tert-butyl dicarbonate (2.0 g, 9.2 mmol) in THF (15 ml) is added 1.0 M sodium bis(trimethylsilyl)amide in THF (18 ml, 18 mmol) at 0° C. The mixture is stirred at r.t. for 4 h, and then concentrated, quenched with saturated NH4Cl, diluted with EtOAc, and washed with water. The organic layer is dried over MgSO4, treated with charcoal, filtered and concentrated to dryness. Title compound is obtained as a light yellow solid (2.1 g, 7.7 mmol).

reactant | 3-amino-2-bromopyridine | 8.7 mmol, 1.5 g | NC=1C(=NC=CC1)Br | C5H5BrN2
reactant | di-tert-butyl dicarbonate | 9.2 mmol, 2.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium bis(trimethylsilyl)amide | 1.0 M | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 18 mmol, 18 ml | C1CCOC1 | C4H8O
product | (2-Bromo-pyridin-3-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1C(=NC=CC1)Br)=O | C10H13BrN2O2
